US05594012
To 20 ml of a 2N aqueous solution of sodium hydroxide in which 5 g of L-histidine had been dissolved, 3.5 ml of salicylaldehyde and 0.4 g of sodium borohydride were successively added. After stirring for 1 hour, additional 3.5 ml of salicylaldehyde and 0.4 g of sodium borohydride were successively added. After stirring at room temperature for 1 hour, the unsolubles were filtered out and the filtrate was extracted with diethyl ether. The pH was adjusted to 6 with hydrochloric acid to give 8 g of N-(2-hydroxybenzyl)-L-histidine.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | salicylaldehyde | 3.5 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | salicylaldehyde | 3.5 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | L-histidine | 5 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
product | N-(2-hydroxybenzyl)-L-histidine | 8 g | OC1=C(CN[C@@H](CC2=CNC=N2)C(=O)O)C=CC=C1 | C13H15N3O3
